US06124323
4-(4-Fluorobenzyl)-1-[2-(2-hydroxyphenoxy)ethyl]piperidine hydrochloride
The title compound was prepared from 4-(4-fluorobenzyl)piperidine hydrochloride (298 mg, 1.30 mmol), 2-(2-benzyloxyphenoxy)ethyl bromide (399 mg, 1.3 mmol) and potassium carbonate (449 mg, 3.2 mmol) in two steps as white-off solid (240 mg): mp 233-235° C. (dec.). 1H NMR (CD3OD) 1.532 (m, 2 H), 1.848 (d, J=13.2 Hz, 3 H), 2.571 (d, J=6.3 Hz, 2 H), 3.0 (m, 2 H), 3.483 (m, 2 H), 3.603 (d, J=10.5 Hz, 2 H), 4.262 (t, J=5.1 Hz, 2 H), 6.752-6.825 (m, 3 H), 6.909-6.986 (m, 3 H), 7.126-7.173 (m, 2 H).

reactant | 4-(4-fluorobenzyl)piperidine hydrochloride | 1.30 mmol, 298 mg | Cl.FC1=CC=C(CC2CCNCC2)C=C1
reactant | 2-(2-benzyloxyphenoxy)ethyl bromide | 1.3 mmol, 399 mg | C(C1=CC=CC=C1)OC1=C(OCCBr)C=CC=C1 | C15H15BrO2
reactant | potassium carbonate | 3.2 mmol, 449 mg | C([O-])([O-])=O.[K+].[K+]
product | 4-(4-Fluorobenzyl)-1-[2-(2-hydroxyphenoxy)ethyl]piperidine hydrochloride | Cl.FC1=CC=C(CC2CCN(CC2)CCOC2=C(C=CC=C2)O)C=C1 | InChI=1S/C20H24FNO2.ClH/c21-18-7-5-16(6-8-18)15-17-9-11-22(12-10-17)13-14-24-20-4-2-1-3-19(20)23;/h1-8,17,23H,9-15H2;1H
